US07767650B2
c. Preparation of 5,5,8,8-Tetramethyl-4-(2-methoxyethoxy)-5,6,7,8-tetrahydronaphthalene-2-carbaldehyde
34 g (148 mmol) of 4-hydroxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene-2-carbaldehyde are dissolved in 400 mL of anhydrous DMF. 7.2 g (178 mmol) of 60% sodium hydride are then added portionwise, and the reaction medium is stirred for 1 hour. 16.5 mL (178 mmol) of 2-methoxyethyl chloride are added dropwise, and the medium is stirred at room temperature for 2 hours and then hydrolysed and extracted with ethyl ether. The organic phase is washed with 1N sodium hydroxide solution and then three times with water. The residue obtained is purified by chromatography (eluent:heptane). A yellow oil is obtained (m=42.7 g; yield=95%).

reactant | 4-hydroxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene-2-carbaldehyde | 148 mmol, 34 g | OC1=CC(=CC=2C(CCC(C12)(C)C)(C)C)C=O | C15H20O2
reactant | sodium hydride | 178 mmol, 7.2 g | [H-].[Na+]
reactant | 2-methoxyethyl chloride | 178 mmol, 16.5 mL | COCCCl | C3H7ClO
solvent | DMF | 400 mL | CN(C)C=O | C3H7NO
product | 5,5,8,8-Tetramethyl-4-(2-methoxyethoxy)-5,6,7,8-tetrahydronaphthalene-2-carbaldehyde | yield=95% | CC1(C=2C(=CC(=CC2C(CC1)(C)C)C=O)OCCOC)C | C18H26O3
